US06140333
(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylacetic acid
To a solution of 2.4 g of (2R,5R)-2-(t-butyl)-5-((1R)-3,3-difluorocyclopentyl)-5-phenyl-1,3-dioxolan-4-one in 30 ml of methanol, 10 ml of a 1N aqueous solution of sodium hydroxide was added, followed by stirring for 3 hours at room temperature. After distilling the methanol off under reduced pressure, the reaction mixture was diluted with water, and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with diethyl ether, while the organic layer was dried over anhydrous magnesium sulfate. Distilling the solvent off under reduced pressure gave 1.66 g of the title compound.

reactant | (2R,5R)-2-(t-butyl)-5-((1R)-3,3-difluorocyclopentyl)-5-phenyl-1,3-dioxolan-4-one | 2.4 g | C(C)(C)(C)[C@@H]1O[C@@](C(O1)=O)(C1=CC=CC=C1)[C@H]1CC(CC1)(F)F | C18H22F2O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | (2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylacetic acid | 1.66 g | FC1(C[C@@H](CC1)[C@](C(=O)O)(C1=CC=CC=C1)O)F | C13H14F2O3
